US07417062B2
Step 2: 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid ((S)-1-cyclobutyl-pyrrolidin-2-ylmethyl)-naphthalen-2-ylmethyl-amide.
Experimental conditions analogous Example 58, from 0.35 g (1.01 mmol) of (S)-2-{[(naphthalen-2-ylmethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester, 10 mL dichloromethane, 169 μL (1.21 mmol) of triethylamine, and 0.27 g (1.12 mmol) of 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride. The crude mixture was filtered through silica and the compound was deprotected in 10 mL 10% trifluoroacetic acid/dichloromethane in 1.5 hours. The reaction mixture was treated with aqueous sodium bicarbonate, and extracted with dichloromethane. The crude material was dissolved in 10 mL of dichloromethane, to this mixture was added 0.21 g (3.0 mmol) of cyclobutanone and 0.636 g (3.0 mmol) of sodium triacetoxyborohydride. After overnight the reaction was quenched with aqueous sodium bicarbonate and di-tert-butyl dicarbonate. The organic layer was separated, the residue was purified using flash chromatography (7N ammonia in methanol, 0-3% in dichloromethane), gave 76 mg of off white solid as a free base. LC-MSD, m/z for C31H36N2O4 [M+H]+: 501.7. 1H NMR (400 MHz, CDCl3/HCl): δ 1.7 (s, 6 H), 1.9-2.7 (m, 10 H), 2.8-3.0 (m, 1 H), 3.5-3.7 (m, 1 H), 3.8 (s, 3 H), 3.8-4.0 (m, 4 H), 4.9-5.0 (m, 1 H), 5.2-53 (m, 1 H), 6.7 (s, 1H), 6.8 (s, 1 H), 7.2-7.3 (m, 1H), 7.4-7.5 (m, 2 H), 7.7 (s, 1 H), 7.8-7.9 (m, 3 H), 12.2-12.3 (m, 1 H).

reactant | (S)-2-{[(naphthalen-2-ylmethyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.01 mmol, 0.35 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNCC1=CC2=CC=CC=C2C=C1 | C21H28N2O2
reactant | triethylamine | 1.21 mmol, 169 μL | C(C)N(CC)CC | C6H15N
reactant | 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride | 1.12 mmol, 0.27 g | COC1=CC(=CC2=C1OC(O2)(C)C)C(=O)Cl | C11H11ClO4
reactant | cyclobutanone | 3.0 mmol, 0.21 g | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 3.0 mmol, 0.636 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid ((S)-1-cyclobutyl-pyrrolidin-2-ylmethyl)-naphthalen-2-ylmethyl-amide | C1(CCC1)N1[C@@H](CCC1)CN(C(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)OC)CC1=CC2=CC=CC=C2C=C1 | C31H36N2O4
